US09399019B2
In Scheme 2,3-nitrobenzaldehyde was added to cooled isopropanol. The mixture was heated to yield a completely dissolved solution, to which, was added isopropyl acetatoacetate, propionic acid and piperidine. The resultant solution was held until completion of reaction to yield crude Intermediate II, 3-oxo-2-)3-nitrophenylmethylene)butanoic acid isopropyl ester. The resultant mixture was then cooled and held for crystal formation. The crude Intermediate II crystals were isolated by centrifugation, rinsed with additional isopropanol, subsequently charged into cooled isopropanol, heated and agitated, then isolated again by centrifugation and finally dried using vacuum and heating to yield pure Intermediate II.

reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | isopropanol | C(C)(C)O | C3H8O
product | butanoic acid isopropyl ester | C(C)(C)OC(CCC)=O | C7H14O2
